************************************************************************
* auCdl Netlist:
* 
* Library Name:  DEMO_AMP_SF
* Top Cell Name: AMP_SF
* View Name:     schematic
* Netlisted on:  Aug 24 20:01:32 2019
************************************************************************

.INCLUDE  $BAG_TECH_CONFIG_DIR/calibre_rcx_setup/source.added
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: BAG_prim
* Cell Name:    nmos4_standard
* View Name:    schematic
************************************************************************

.SUBCKT nmos4_standard B D G S
*.PININFO B:B D:B G:B S:B
MM1 net1 net3 net4 net2 nch l=60n w=200n m=1
.ENDS

************************************************************************
* Library Name: DEMO_AMP_SF
* Cell Name:    AMP_SF
* View Name:    schematic
************************************************************************

.SUBCKT AMP_SF VDD VSS vbias vin vout
*.PININFO vbias:I vin:I vout:O VDD:B VSS:B
XXDUMMY2 VSS VSS VSS VSS / nmos4_standard
XXDUMMY0 VSS VSS VSS VSS / nmos4_standard
XXDUMMY1 VSS vout VSS VSS / nmos4_standard
XXBIAS VSS vout vbias VSS / nmos4_standard
XXAMP VSS VDD vin vout / nmos4_standard
.ENDS

