************************************************************************
* auCdl Netlist:
* 
* Library Name:  AAAFOO_DIFFAMP_PAPER
* Top Cell Name: DIFFAMP_lch_60n
* View Name:     schematic
* Netlisted on:  Mar  3 22:48:29 2020
************************************************************************

.INCLUDE  $BAG_TECH_CONFIG_DIR/calibre_rcx_setup/source.added
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: AAAFOO_DIFFAMP_PAPER
* Cell Name:    DIFFAMP_lch_60n
* View Name:    schematic
************************************************************************

.SUBCKT DIFFAMP_lch_60n VDD VSS idc inm inp outm outp vbias
*.PININFO idc:I inm:I inp:I vbias:I VDD:B VSS:B outm:B outp:B
MXINP1 outm inp net1 VSS nch_lvt l=60n w=200n m=4
MXINN1 outp inm net1 VSS nch_lvt l=60n w=200n m=4
MXREF1 idc idc VSS VSS nch_lvt l=60n w=200n m=16
MXTAILP1 net1 idc VSS VSS nch_lvt l=60n w=200n m=8
MXTAILN1 net1 idc VSS VSS nch_lvt l=60n w=200n m=8
MXLOADP1 outp vbias VDD VDD pch_lvt l=60n w=200n m=4
MXLOADN1 outm vbias VDD VDD pch_lvt l=60n w=200n m=4
.ENDS

